US03960868
A suspension of 18.7 g of 1-ethyl-4-oxo-6-methoxy-7-cyclohexyl-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester described in Example 18, in 150 ml of ethanol and 150 ml of 2 N sodium hydroxide solution is boiled for 5 hours under reflux. The clear solution thereby produced is evaporated to dryness in vacuo. 2 N Hydrochloric acid is added to the residue. The resulting crystals are filtered off and well washed with water. 1-Ethyl-4-oxo-6-methoxy-7-cyclohexyl-1,4-dihydro-quinoline-3-carboxylic acid, thus obtained, melts at 176°-178°C.

reactant | 1-ethyl-4-oxo-6-methoxy-7-cyclohexyl-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 18.7 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)OC)C1CCCCC1)CC | C21H27NO4
reactant | sodium hydroxide | 2 N, 150 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-Ethyl-4-oxo-6-methoxy-7-cyclohexyl-1,4-dihydro-quinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)C1CCCCC1)OC)=O)C(=O)O | C19H23NO4
